US09145414B2
10% Palladium on carbon (1.0 g) was added to a solution of 1-ethyl-4-methyl-6-nitro-1H-indazole obtained in the above-described Step 1 (975 mg) in ethyl acetate (10 mL), and the reaction solution was stirred under hydrogen atmosphere at room temperature overnight. The insolubles were filtrated, and the solvent was evaporated under vacuum to obtain 1-ethyl-4-methyl-1H-indazol-6-amine.

reactant | 1-ethyl-4-methyl-6-nitro-1H-indazole | C(C)N1N=CC2=C(C=C(C=C12)[N+](=O)[O-])C | C10H11N3O2
catalyst | Palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-4-methyl-1H-indazol-6-amine | C(C)N1N=CC2=C(C=C(C=C12)N)C | C10H13N3
